US04005217
A suspension of dimethylamine in ethanol (20% w/w; 18 ml) was added to a suspension of 1-methoxycarbonyl-3-[2-(3-chloropropionamido)phenyl]thiourea (8.2 g) in ethanol (50 ml). The mixture was heated under reflux, with stirring, for 30 minutes, the ethanol removed by distillation and water (10 ml) added to the residual gum which slowly solidified. The solid was filtered off and dissolved in the minimum of ethanol. Diethyl ether (300 ml) was added, followed by an excess of a saturated solution of hydrogen chloride in diethyl ether. The precipitated solid was filtered off and recrystallised from ethanol to give 1-methoxycarbonyl-3-[2-(3-dimethylaminopropionamido)phenyl]thiourea hydrochloride (3.3 g), m.p. 182°-183° C. (with decomposition).

reactant | dimethylamine | CNC | C2H7N
reactant | 1-methoxycarbonyl-3-[2-(3-chloropropionamido)phenyl]thiourea | 8.2 g | COC(=O)NC(=S)NC1=C(C=CC=C1)NC(CCCl)=O | C12H14ClN3O3S
solvent | ethanol | 18 ml | C(C)O | C2H6O
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 1-methoxycarbonyl-3-[2-(3-dimethylaminopropionamido)phenyl]thiourea hydrochloride | 3.3 g | Cl.COC(=O)NC(=S)NC1=C(C=CC=C1)NC(CCN(C)C)=O | InChI=1S/C14H20N4O3S.ClH/c1-18(2)9-8-12(19)15-10-6-4-5-7-11(10)16-13(22)17-14(20)21-3;/h4-7H,8-9H2,1-3H3,(H,15,19)(H2,16,17,20,22);1H
